US09193723B2
1-(imidazo[1,2-a]pyridin-6-ylmethyl)-3-[4-(1-propyl-1H-pyrazol-4-yl)phenyl]urea
The title compound was prepared as described in Example 51A, substituting 1-propyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 1-(4-bromophenyl)-3-(imidazo[1,2-a]pyridin-6-ylmethyl)urea for 4-bromoaniline. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.59 (s, 1H), 8.44 (s, 1H), 8.04 (s, 1H), 7.95 (s, 1H), 7.76 (s, 1H), 7.57-7.50 (m, 2H), 7.48-7.32 (m, 4H), 7.21 (dd, J=9.2, 1.7 Hz, 1H), 6.65 (t, J=5.9 Hz, 1H), 4.30 (d, J=5.8 Hz, 2H), 4.04 (t, J=6.9 Hz, 2H), 1.87-1.73 (m, 2H), 0.84 (t, J=7.3 Hz, 3H); MS (ESI(+)) m/e 375 (M+H)+.

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 1-(4-bromophenyl)-3-(imidazo[1,2-a]pyridin-6-ylmethyl)urea | BrC1=CC=C(C=C1)NC(=O)NCC=1C=CC=2N(C1)C=CN2 | C15H13BrN4O
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | 1-(imidazo[1,2-a]pyridin-6-ylmethyl)-3-[4-(1-propyl-1H-pyrazol-4-yl)phenyl]urea | N=1C=CN2C1C=CC(=C2)CNC(=O)NC2=CC=C(C=C2)C=2C=NN(C2)CCC | C21H22N6O
